*PulseLoop
 .include sky130nm.lib
 * Circuit 5, 2 pulse gate in ring, sNoise input to PMOS
Xpg1 outA sNoise outB pos_supply neg_supply pgNegPos
 C1 sNoise neg_supply 50pF 
 Xpg2 outB outA pos_supply neg_supply pgNeg1
 v3 pos_supply 0 SINE(0 1.8 10000000 0 0 0) 
 v4 neg_supply 0 0.0
 v2 sNoise 0 dc 0 trrandom (2 20p 0 1.4000000000000001 0.1)
.control 
 *plot v(outA) v(outB) v(sNoise)
 *plot i(v3)
 tran 1ps 100ns 
 meas tran responseTimeA1 WHEN v(outA)=1.2 CROSS=1 
 meas tran responseTimeA2 WHEN v(outA)=1.2 CROSS=2
 meas tran responseTimeA3 WHEN v(outA)=1.2 CROSS=3
 meas tran responseTimeA4 WHEN v(outA)=1.2 CROSS=4
 meas tran responseTimeB1 WHEN v(outB)=1.2 CROSS=1
 meas tran responseTimeB2 WHEN v(outB)=1.2 CROSS=2
 meas tran responseTimeB3 WHEN v(outB)=1.2 CROSS=3
 meas tran responseTimeB4 WHEN v(outB)=1.2 CROSS=4
 meas tran iavg_start_to_response_a1 avg i(v3) FROM=0 TO=responsetimea1 
 meas tran iavg_start_to_response_b1 avg i(v3) FROM=0 TO=responsetimeb1 
 meas tran vavg_from_response_a1_to_response_a4 avg v(v3) FROM=responsetimea1 TO=responsetimea4 
 meas tran vavg_from_response_b1_to_response_b4 avg v(v3) FROM=responsetimeb1 TO=responsetimeb4 
 meas tran vavg_from_response_a1_to_response_b1 avg v(v3) FROM=responsetimeb1 TO=responsetimea1 
 meas tran iavg_from_response_a1_to_response_a4 avg i(v3) FROM=responsetimea1 TO=responsetimea4 
 meas tran iavg_from_response_b1_to_response_b4 avg i(v3) FROM=responsetimeb1 TO=responsetimeb4 
 meas tran iavg_from_response_a1_to_response_b1 avg i(v3) FROM=responsetimeb1 TO=responsetimea1 
 *quit
 .endc
 
 
 .subckt pgNeg2PosSeries Aneg Bpos Cpos x pow_supply gnd_supply
 
 xm1 pow_supply reset_loop critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 gnd_supply Aneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm11 pow_supply Cpos critical_node bc sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm10 bc Bpos critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm3 pow_supply critical_node invO pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 gnd_supply critical_node invO gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm14 pow_supply invO reset_loop pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 gnd_supply invO reset_loop gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 pow_supply invO xe pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 gnd_supply invO xe gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 pow_supply xe x pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 gnd_supply xe x gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 .ends pgNeg2PosSeries 
 
 .subckt pgNegPos Aneg Bpos x pow_supply gnd_supply
 
 xm1 pow_supply reset_loop critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 gnd_supply Aneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm10 pow_supply Bpos critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm3 pow_supply critical_node invO pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 gnd_supply critical_node invO gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm14 pow_supply invO reset_loop pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 gnd_supply invO reset_loop gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 pow_supply invO xe pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 gnd_supply invO xe gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 pow_supply xe x pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 gnd_supply xe x gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 .ends pgNegPos 
 
 .subckt pgNeg Aneg Bneg x pow_supply gnd_supply
 
 xm1 pow_supply reset_loop critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 gnd_supply Aneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm10 gnd_supply Bneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm3 pow_supply critical_node invO pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 gnd_supply critical_node invO gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm14 pow_supply invO reset_loop pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 gnd_supply invO reset_loop gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 pow_supply invO xe pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 gnd_supply invO xe gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 pow_supply xe x pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 gnd_supply xe x gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 .ends pgNeg 
 
 
 .subckt pgNeg2Series Aneg Bneg BnegSeries x pow_supply gnd_supply
 
 xm1 pow_supply reset_loop critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 gnd_supply Aneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm10 gnd_supply Bneg critical_node bs sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm11 bs BnegSeries critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm3 pow_supply critical_node invO pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 gnd_supply critical_node invO gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm14 pow_supply invO reset_loop pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 gnd_supply invO reset_loop gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 pow_supply invO xe pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 gnd_supply invO xe gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 pow_supply xe x pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 gnd_supply xe x gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 .ends pgNeg2Series 
 
 .subckt pgNegSeries Bneg BnegSeries x pow_supply gnd_supply
 
 xm1 pow_supply reset_loop critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 gnd_supply Aneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm10 gnd_supply Bneg critical_node bs sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm11 bs BnegSeries critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm3 pow_supply critical_node invO pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 gnd_supply critical_node invO gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm14 pow_supply invO reset_loop pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 gnd_supply invO reset_loop gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 pow_supply invO xe pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 gnd_supply invO xe gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 pow_supply xe x pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 gnd_supply xe x gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 .ends pgNegSeries 
 
 .subckt pgNeg1 Aneg x pow_supply gnd_supply
 
 xm1 pow_supply reset_loop critical_node pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 gnd_supply Aneg critical_node gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm3 pow_supply critical_node invO pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 gnd_supply critical_node invO gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm14 pow_supply invO reset_loop pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 gnd_supply invO reset_loop gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 pow_supply invO xe pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 gnd_supply invO xe gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 pow_supply xe x pow_supply sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 gnd_supply xe x gnd_supply sky130_fd_pr__nfet_01v8 l=150n w=360n 
 .ends pgNeg1 
 